Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
mucosal bleeding, thrombocytopenia
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Patient is a ___ woman with a recent diagnosis of ITP 
about a month ago. She was discharged from ___ earlier this 
week after a stay from ___ after she initially presented 
to ___ for discharge with recurrent heavy vaginal bleeding and 
oral mucosal bleeding, and was transferred to ___ for further 
management. While at ___, hematology was consulted. Patient 
was
started on prednisone 90mg QD, continued on eltrombopag 50mg QD, 
rituximab 700mg IV on ___. Received a total of 4u platelet 
transfusions with a goal of >10. Oral mucosal bleeding resolved 
and vaginal bleeding significantly improved. Discharge platelet 
count was 43. Plan was to continue prednisone and eltrombopag at 
home and f/u at CHA on ___ for next rituximab dose.

While she was home, she does not report any changes. She took 
all of her meds as prescribed including Rituximab dose ___ and 
pred 90mg no taper, no OTC meds, denies any illness. Says she 
was feeling intermittently hot and cold in the past few days 
though denies any fevers or shaking chills. No sick contacts. 

Starting last night, she had coffee ground emesis (dark/black), 
about a teaspoon full twice. Also notes a little blood on toilet 
paper when wiping both after bowel movements and urination, no 
frank blood in the toilet bowl. Small nosebleed this morning. 

Today, she went for routine blood work at ___ and was found 
to have platelet count <5. Was sent from there to the ED. 

Denies headache, lightheadedness, chest pain, palps, dyspnea, 
abdominal pain. 

In the ED:  
 - Initial vital signs were notable for: T98.9 ___ BP 157/90 
R18 99%RA 
 
- Exam notable for: scant petechiae on lower legs and palate

- Labs were notable for: Platelets 9, BGL 326

- Studies performed include:
___ 03:50PM BLOOD WBC: 6.2 RBC: 4.10 Hgb: 11.5 Hct: 35.7
MCV: 87 MCH: 28.0 MCHC: 32.2 RDW: 13.8 RDWSD: 43.___* 
___ 03:50PM BLOOD Neuts: 65.7 Lymphs: ___ Monos: 3.5* Eos:
1.9 Baso: 0.6 Im ___: 1.0* AbsNeut: 4.09 AbsLymp: 1.70 AbsMono:
0.22 AbsEos: 0.12 AbsBaso: 0.04 
___ 03:50PM BLOOD Glucose: 326* UreaN: 14 Creat: 0.8 Na: 
135
K: 3.8 Cl: 100 HCO3: 20* AnGap: 15 

- Patient was given: 1 unit platelets

- Consults: heme/onc on board

Vitals on transfer:  Temp: 98.4 PO BP: 147/88 HR: 98 RR: 18 O2
sat: 98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
___ 1815 FSBG: 266 

On arrival to the medicine floor the patient endorsed the above 
history. She was quite frustrated with the fact she has been in 
the hospital 4 times. She was also quite frustrated with the 
fact that she was assigned to a double room. She otherwise 
denied currently having epistaxisis or hemoptysis since being on 
the floor. 
 

 
Past Medical History:
Type 2 DM 
HTN
Menorrhagia 
ITP
 
Social History:
___
Family History:
No significant family history. No known history of bleeding or 
thrombocytopenia.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=============================  
VITALS: ___ 1815 Temp: 98.4 PO BP: 147/88 HR: 98 RR: 18 O2 
sat: 98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
General: alert and interactive
HEENT: NCAT, PERRLA, sclera anicteric and without injection. 
MMM, no ulcers or lesions. Poor dentition with scant bleeding 
around the bases of multiple teeth. 
Cor: RRR, S1 S2, no m/r/g
Pulm: CTAB
Abd: hypoactive bowel sounds, nt/nd
Extremities: no clubbing, cyanosis, or edema. Scattered 
petechiae
lower extremities. 
Neuro: A/O 

DISCHARGE PHYSICAL EXAM
=============================
VITALS: 24 HR Data (last updated ___ @ 756)
    Temp: 97.8 (Tm 98.3), BP: 119/76 (112-137/66-79), HR: 74
(74-90), RR: 18 (___), O2 sat: 97% (97-99), O2 delivery: Ra,
Wt: 188.93 lb/85.7 kg (185.7-188.93)  
HEENT: Pupils equal and reactive, MMM w/ poor dentition, no
lesions, petechiae, buccal bleeding.
CV: RRR without murmurs.
Pulm: CTAB w/o adventitious sounds.
ABD: Soft, nontender; nondistended.
Neuro: Face grossly symmetric, moving all limbs w/ purpose
against gravity

 
Pertinent Results:
ADMISSION & PERTINENT INTERVAL LABS
====================================
___ 11:55AM BLOOD WBC-7.5 RBC-4.41 Hgb-12.6 Hct-38.3 MCV-87 
MCH-28.6 MCHC-32.9 RDW-13.6 RDWSD-42.7 Plt Ct-<5*
___ 11:55AM BLOOD Neuts-62.5 ___ Monos-6.0 Eos-1.6 
Baso-0.4 Im ___ AbsNeut-4.70 AbsLymp-2.16 AbsMono-0.45 
AbsEos-0.12 AbsBaso-0.03
___ 03:50PM BLOOD Glucose-326* UreaN-14 Creat-0.8 Na-135 
K-3.8 Cl-100 HCO3-20* AnGap-15
___ 07:30PM BLOOD Calcium-8.5 Phos-2.7 Mg-1.6
___ 08:25AM BLOOD ___ PTT-23.2* ___
___ 07:30PM BLOOD Plt Smr-RARE* Plt Ct-<5*
___ 07:30PM BLOOD WBC-6.7 RBC-3.97 Hgb-11.1* Hct-34.3 
MCV-86 MCH-28.0 MCHC-32.4 RDW-13.6 RDWSD-42.5 Plt Ct-<5*
___ 07:23AM BLOOD WBC-9.3 RBC-4.33 Hgb-12.3 Hct-36.9 MCV-85 
MCH-28.4 MCHC-33.3 RDW-13.4 RDWSD-41.9 Plt Ct-7*
___ 05:54AM BLOOD WBC-9.8 RBC-3.95 Hgb-10.9* Hct-34.2 
MCV-87 MCH-27.6 MCHC-31.9* RDW-13.6 RDWSD-42.4 Plt Ct-35*

IMAGING
====================================
___ CT HEAD IMPRESSION: No acute intracranial process.  
No evidence of intracranial hemorrhage.

___ CT ABD&PELVIS IMPRESSION:
1. No evidence of hepatosplenomegaly. No evidence of 
intra-abdominal masses.
2. Please refer to same-day CT chest for detailed description of 
thoracic
findings.

___ CT CHEST IMPRESSION: No evidence of intrathoracic 
malignancy or infection. Probable anemia.

MICROBIOLOGY
====================================
- None 

PATHOLOGY/BONE MARROW
====================================
Pending at time of discharge

DISCHARGE/INTERVAL LABS
=====================
___ 08:06AM BLOOD WBC-11.1* RBC-3.84* Hgb-10.8* Hct-32.5* 
MCV-85 MCH-28.1 MCHC-33.2 RDW-13.5 RDWSD-41.6 Plt ___
___ 08:06AM BLOOD Glucose-130* UreaN-17 Creat-0.7 Na-140 
K-3.7 Cl-102 HCO3-23 AnGap-15
___ 08:06AM BLOOD Calcium-8.9 Phos-4.1 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with past medical history 
significant for ITP, DM2, HTN who presents with coffee ground 
emesis and small BRBPR with outpatient labs notable for plts < 
5, prompting inpatient referral for concern for recurrent 
thrombocytopenia.

ACUTE ISSUES: 
============= 
# ITP: Patient was diagnosed with ITP about a month ago and is 
followed at ___ for her care. Her treatment course previously is 
as follows: oral dexamethasone 40 mg daily x 4 days (___), IV Ig 1 g/kg on ___ and ___, 
Prednisone 90 mg daily started on ___ tapered to 60 mg, 
Rituximab 375 mg/m2 4 doses recently completed, Promacta 50 mg 
daily started on ___ - ?___. Differential diagnosis in 
the past has included aplastic anemia vs thrombocytopenia 
predominant MDS, however these were felt less likely than ITP. 
___ was weakly positive at 1:40 last admission, anti-histone 
antibody was negative. HIV and HCV negative. HBV viral load 
negative but positive surface and core antibody, suggesting 
clearance of HBV. On last admit, heme thought the patient likely 
had steroid-refractory ITP, and likely rituximab was causing her 
platelets to go up during that admission. She was supposed to 
undergo a taper of her oral prednisone but this had not been 
started prior to her current hospitalization. Of note, the 
patient has been very frustrated with multiple hospital 
admissions in the past month. Bone marrow biopsy performed on 
___ had not returned by discharge but prelim review showed no 
overt leukemia, lymphoma or dysplasia. Heme onc followed her on 
this admission and she received higher dose prednisone 120 mg 
daily and NPlate 84 mcg on ___ platelets have since risen from 
<5 to 101 with this treatment. She will follow-up with Dr. 
___ in clinic on ___ for follow-up and steroid taper. She 
has been continued on Pantoprazole, Bactrim, and Vitamin D to 
avoid steroid-induced complications. Splenectomy was considered 
on this admission however given her improvement with medical 
management, this option has been deferred at this time. She 
received Hib, PCV13, and Trumenba prior to discharge and will 
need follow-up vaccines listed below in preparation for possible 
splenectomy. 

# T2DM: Prior to this hospitalization, she was on metformin, QHS 
lantus and standing mealtime and QHS humalog. With persistent 
hyperglycemia while on high-dose steroids, her insulin regimen 
was adjusted as follows and should be continued as below until 
she sees her PCP:
[ ] Lantus 70 U at bedtime
[ ] Humalog: 20 units at breakfast, 20 units at lunch, 20 units 
at dinner, and 8 units at bedtime

# Vaginal bleeding: Stable/resolved. Likely in the setting of 
low platelets. Patient is pre-menopausal, and prior to 
development of ITP, she had regular periods every 4 weeks. 
Somewhat heterogenous endometrium was seen on CHA vaginal US. 
During her last admission, OBGYN was consulted and felt it was 
non-specific with low-suspicion for underlying malignancy. 
Norethindrone was discontinued at that time. Only light vaginal 
spotting was seen at last hospital discharge. Treated ITP as 
above. 

CHRONIC ISSUES: 
=============== 
# Steroid-induced Gastritis, Dyspepsia: Last admission, the 
patient was placed on pantoprazole 40mg QD and ranitidine 150mg 
PO BID for GI ppx iso steroid use due to new cramping epigastric 
discomfort. Likely gastritis I/s/o steroid use. H pylori 
serology positive, infection can be associated with worsening of 
ITP. She will need a repeat stool H. Pylori testing 2 weeks 
after discontinuation of prednisone. She was continued on 
pantoprazole and ranitidine.

# HBV: Patient with HBV core and surface Ab positive, viral load 
negative. She was started on entecavir last admission to prevent 
HBV recurrence while on rituximab. She will continue on 
entecavir pending decision for immunosuppression. 

# HTN: Continued home amlodipine.

TRANSITIONAL ISSUES
=====================
[] please repeat CBC at follow-up appointment, last plt count 
was 101k
[] currently on prednisone 100 mg daily for ITP, to be tapered 
by heme/onc
[] current insulin regimen: Lantus 70 U at bedtime. Humalog: 20 
units at breakfast, 20 units at lunch, 20 units at dinner, and 8 
units at bedtime. please titrate accordingly
[] continue Bactrim, vitamin D, and pantoprazole during steroid 
treatment/taper
[] to prepare for possible splenectomy if medical management 
fails, she will need the following vaccines: She received Hib 
(___), PCV 13 (___), and Trumenba (dose 1, ___
[] PPSV 23 in 8 weeks (___). Revaccinate with PPSV 23 every 
___ years thereafter
[] 2 doses of Menactra at least 8 weeks apart. NOTE: Menactra 
must be given 4 weeks after PCV13. Menactra requires 
revaccination every ___ years
[] 2 more doses of Trumenba at 1 to 2 months (___) and 6 
months
[] f/u bone marrow biopsy from ___: prelim read without overt 
leukemia, lymphoma, or dysplasia
[] will require ID follow-up for guidance re: HBV management. 
Started on entecavir last admission to prevent recurrence while 
on rituximab
[] will require outpatient stool H. Pylori testing 2 weeks after 
discontinuation of prednisone
[] OBGYN follow-up for consideration of endometrial biopsy and 
IUD placement to thin endometrial lining and prevent on-going 
heavy vaginal bleeding. 
[] As per OBGYN recs: consider oral Tranexamic Acid ___ TID 
x5 days dosed monthly during menses to lower amount of vaginal 
bleeding if thrombocytopenia and vaginal bleeding persists. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Ranitidine 150 mg PO BID 
4. Vitamin D ___ UNIT PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. Entecavir 0.5 mg PO DAILY 
8. eltrombopag 50 mg oral DAILY 
9. PredniSONE 90 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 70 Units Bedtime
Humalog 20 Units Breakfast
Humalog 20 Units Lunch
Humalog 20 Units Dinner
Humalog 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Basaglar KwikPen U-100 Insulin] 100 
unit/mL (3 mL) AS DIR 70 Units before BED; Disp #*1 Syringe 
Refills:*12
RX *insulin lispro [Humalog KwikPen Insulin] 100 unit/mL AS DIR 
20 Units before breakfast, 20 U before lunch, and 20 U before 
dinner. 8 units at bedtime Disp #*1 Syringe Refills:*24 
2.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*24 Packet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Tablet Refills:*2 
4.  PredniSONE 100 mg PO DAILY 
RX *prednisone 20 mg 5 tablet(s) by mouth daily Disp #*150 
Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Entecavir 0.5 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Pantoprazole 40 mg PO Q24H  
9.  Ranitidine 150 mg PO BID  
10.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
11.  Vitamin D ___ UNIT PO DAILY  
12. HELD- eltrombopag 50 mg oral DAILY  This medication was 
held. Do not restart eltrombopag until you talk to your 
hematologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP
Thrombocytopenia 
DMII

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___ for very 
low platelets and minor bleeding. Our hematology doctors saw ___ 
and recommended admission to the internal medicine service for 
medication management. You were given high dose steroids and 
platelet medications and your platelets saw a gradual increase 
by your discharge dates. Given improvement in your labs and lack 
of significant bleeding, your hematology and surgical teams feel 
that it is safe to continue your management on steroids at this 
time. In the future if your symptoms worsen, you may require 
surgery to remove your spleen.

While hospitalized, you received vaccines that will protect you 
against infections that are life threatening in the event that 
you need your spleen removed. You will need repeat vaccines 
based on a schedule listed below that you should discuss with 
your PCP.

Since you are now on high dose steroids, this will affect your 
blood sugars and your insulin regimen has been increased 
appropriately (see below). Please record your blood sugars with 
meals and at bedtime and bring this log to your PCP. You have 
also been started on antibiotics, Vitamin D, and acid reflux 
medication to prevent complications that can develop with 
steroid use. Please continue to take these medications as 
prescribed.

It is imperative that you see your PCP and attend your follow-up 
appointments listed below. 

Your ___ Team
 
Followup Instructions:
___